US07576115B2
2) Synthesis of 4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-hydroxybenzoic acid
To methyl 4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-hydroxybenzoate (0.438 mmol, 203.3 mg), methanol (20 mL) was added, and 1 M aqueous sodium hydroxide (2.2 mmol, 2.2 mL) was added. After 5 hours of stirring at 50° C., 14 hours of stirring at room temperature and 4 hours of stirring at 50° C., 1 M hydrochloric acid (2.2 mmol, 2.2 mL) and water were added. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the crude desired product as a yellow solid (175.0 mg). It was further dissolved in THF (35 mL) and stirred at room temperature for 2 days. The insolubles were filtered off, and the filtrate was concentrated and dried by means of a vacuum pump. After addition of chloroform, the precipitated solid was recovered by filtration and dried by means of a vacuum pump to give the desired product as a pale yellow solid (151.6 mg, yield 77%).

reactant | methyl 4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-hydroxybenzoate | 0.438 mmol, 203.3 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC(=C(C(=O)OC)C=C1)O)O | C25H28N4O5
reactant | methanol | 20 mL | CO | CH4O
reactant | sodium hydroxide | 2.2 mmol, 1 M, 2.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2.2 mmol, 1 M, 2.2 mL | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-hydroxybenzoic acid | 151.6 mg, yield 77% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC(=C(C(=O)O)C=C1)O)O | C24H26N4O5
